US08048909B2
1-[5-(2-Fluorophenyl)-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride
5-(2-Fluorophenyl)-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde (550 mg) was dissolved in methanol (55 mL), 40% methylamine methanol solution (1.05 g) was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (154 mg) was added at room temperature, and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (100 mL) was added, and the mixture was stirred for 5 min. The reaction mixture was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (10 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 400 mg, 65%).

reactant | 5-(2-Fluorophenyl)-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde | 550 mg | FC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C)C=O | C18H14FNO5S2
reactant | methylamine methanol | 1.05 g | CO.CN
reactant | Sodium borohydride | 154 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 100 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 55 mL | CO | CH4O
product | 1-[5-(2-Fluorophenyl)-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride | yield 400 mg, 65% | Cl.FC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C)CNC | InChI=1S/C19H19FN2O4S2.ClH/c1-21-12-14-10-19(17-8-3-4-9-18(17)20)22(13-14)28(25,26)16-7-5-6-15(11-16)27(2,23)24;/h3-11,13,21H,12H2,1-2H3;1H
